US06150549
A one-liter autoclave equipped with a stirrer was charged in a nitrogen atmosphere with 50 grams (0.40 mol) of 1-tert-butylcyclopentene, 108 grams (0.80 mol) of trichlorosilane and 20 grams (82 mmol) of 1,1'-azobis(cyclohexane-1-carbonitrle) and the mixture was reacted at a temperature of 130° C. for 3 days. The resulting reaction mixture was purified by distillation thereby obtaining 62 grams (0.24 mol) of 2-tert-butylcyclopentyltrichlorosilane. The structure of the resulting product was identified by 1H-NMR.

reactant | 1-tert-butylcyclopentene | 0.40 mol, 50 grams | C(C)(C)(C)C1=CCCC1 | C9H16
reactant | trichlorosilane | 0.80 mol, 108 grams | Cl[SiH](Cl)Cl | Cl3HSi
product | 2-tert-butylcyclopentyltrichlorosilane | 0.24 mol, 62 grams, Yield: 60% | C(C)(C)(C)C1C(CCC1)[Si](Cl)(Cl)Cl | C9H17Cl3Si
